US07691843B2
To a stirred solution of (+)trans-1-benzhydryl-3-ethylazetidine-2-carboxylic acid tert-butyl ester (2.85 mmol, 1 eq.) in dry MeOH (50 mL) was added 1 M acetyl chloride (3.1 mL, 3.13 mmol, 1.1 eq.) in MeOH and sonicated the mixture to obtain clear solution. To this was added palladium hydroxide on carbon (20% Pd(OH)/C, 200 mg) and the mixture was hydrogenated at 60 psi for 5 h. The catalyst was filtered off and the filtrate was concentrated in vacuo to afford (+)-trans-3-ethylazetidine-2-carboxylic acid tert-butyl ester in quantitative yield. This was used without further purification.

reactant | (+)trans-1-benzhydryl-3-ethylazetidine-2-carboxylic acid tert-butyl ester | 2.85 mmol, 1 eq. | C(C)(C)(C)OC(=O)[C@@H]1N(C[C@H]1CC)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H29NO2
reactant | acetyl chloride | 3.13 mmol, 1 M, 3.1 mL, 1.1 eq. | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 50 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | (+)-trans-3-ethylazetidine-2-carboxylic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(=O)[C@@H]1NC[C@H]1CC | C10H19NO2
